US04584146
Tetrakis(2,6-di-t-butyl-4-methylphenyl) 4,4'-thiobisphenyl diphosphite
A solution of 0.65 gram of 4,4'-thiobisphenol (0.003 mol) in 50 ml of dry tetrahydrofuran was added to a reaction vessel equipped with stirring and heating means. While stirring the 4,4'-thiobisphenol solution under nitrogen, 0.14 gram (0.006 mol) of sodium hydride, as a 50 weight percent dispersion in mineral oil was added to the 4,4'-thiobisphenol solution and the resulting mixture was stirred at 55° C. for one hour. The reaction mixture was cooled to room temperature and a solution of bis(2,6-di-t-butyl-4-methylphenyl) phosphorochloridite (3.0 grams, 0.006 mol) in 25 ml of tetrahydrofuran was added to the reaction mixture and the mixture was stirred for three hours. The reaction product was then acidified with 1N HCl and filtered. The filtrate was heated to remove the solvent, and an oily reaction product was obtained. This oil was stirred with 50 ml of acetonitrile for one hour. The resulting white powder was recovered by filtration and dried. The product yield of tetrakis(2,6-di-t-butyl-4 -methylphenyl) 4,4'-thiobisphenyl diphosphite was 1.19 grams. The molecular weight, FD/MS was 1154. NMR data obtained was, (CDCl3): 1.44 (S, 72H), 2.24 (S, 12H), 6.06 (d, J=8.4, 4H), 6.85 (d, J=8.4, 4H), 7.30 (S, 8H).

reactant | 4,4'-thiobisphenol | 0.003 mol, 0.65 gram | S(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C12H10O2S
reactant | sodium hydride | 0.006 mol, 0.14 gram | [H-].[Na+]
reactant | bis(2,6-di-t-butyl-4-methylphenyl) phosphorochloridite | 0.006 mol, 3.0 grams | P(OC1=C(C=C(C=C1C(C)(C)C)C)C(C)(C)C)(OC1=C(C=C(C=C1C(C)(C)C)C)C(C)(C)C)Cl | C30H46ClO2P
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | Tetrakis(2,6-di-t-butyl-4-methylphenyl) 4,4'-thiobisphenyl diphosphite | P(OC1=C(C=C(C=C1C(C)(C)C)C)C(C)(C)C)(OC1=C(C=C(C=C1C(C)(C)C)C)C(C)(C)C)OC1=CC=C(C=C1)SC1=CC=C(C=C1)OP(OC1=C(C=C(C=C1C(C)(C)C)C)C(C)(C)C)OC1=C(C=C(C=C1C(C)(C)C)C)C(C)(C)C | C72H100O6P2S
